M5 (VOUT1 VB1 net020 VSS) nmos4
M4 (net019 VB1 net022 VSS) nmos4
M3 (net020 VIN2 IB1 VSS) nmos4
M1 (net022 VIN1 IB1 VSS) nmos4
M9 (net021 net019 VDD VDD) pmos4
M8 (net014 net019 VDD VDD) pmos4
M7 (VOUT1 VB2 net021 VDD) pmos4
M6 (net019 VB2 net014 VDD) pmos4