M1 (net037 VB4 VSS VSS) nmos4
M3 (net039 VB4 VSS VSS) nmos4
M4 (VOUT1 VB1 net037 VSS) nmos4
M5 (VOUT2 VB1 net039 VSS) nmos4
R5 (VCM1 VOUT2) resistor
R6 (VOUT1 VCM1) resistor
M6 (VOUT1 VB2 net033 VDD) pmos4
M7 (VOUT2 VB2 net034 VDD) pmos4
M8 (net033 VB3 VDD VDD) pmos4
M9 (net034 VB3 VDD VDD) pmos4