MM1 (net14 net1003 net013 VSS) nmos4
MM0 (VOUT1 net1003 net10 VSS) nmos4
MM9 (net10 net14 VSS VSS) nmos4
MM8 (net013 net14 VSS VSS) nmos4
MM5 (net12 VB1 VDD VDD) pmos4
MM7 (VOUT1 net12 net12 net19) pmos4
MM6 (net14 VSS net12 net19) pmos4
MM13 (net9 net1003 VSS VSS) nmos4
MM15 (net1003 net1003 net9 VSS) nmos4
MM14 (net1003 net1006 VDD VDD) pmos4
RR0 (VB2 VSS) resistor
MM2 (net1006 net12 VB2 VSS) nmos4
MM0 (net12 VB2 VSS VSS) nmos4
MM3 (net1006 net1006 VDD VDD) pmos4
MM1 (net12 net1006 VDD VDD) pmos4
M12 (VIN1 VCLK1 net11 VSS) nmos4
M13 (net11 VCLK2 net12 VSS) nmos4
C1 (net12 VOUT1) capacitor
C0 (net11 VSS) capacitor